US08030500B2
4-Fluoro-1-(2-fluoro-5-(5-(methylsulfonyl)pyridin-3-yl)phenyl)-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine
The title compound was synthesized as described for Example 1 in 58% yield, starting from 1-(5-bromo-2-fluorophenyl)-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine (64.8 mg, 0.14 mmol) and 5-(methylsulfonyl)pyridin-3-ylboronic acid (30.6 mg, 0.15 mmol).

reactant | 1-(5-bromo-2-fluorophenyl)-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine | 0.14 mmol, 64.8 mg | BrC=1C=CC(=C(C1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)C(F)(F)F)F | C20H11BrF5N3
reactant | 5-(methylsulfonyl)pyridin-3-ylboronic acid | 0.15 mmol, 30.6 mg | CS(=O)(=O)C=1C=C(C=NC1)B(O)O | C6H8BNO4S
product | 4-Fluoro-1-(2-fluoro-5-(5-(methylsulfonyl)pyridin-3-yl)phenyl)-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine | 58% yield | FC1=C2C(=NC(C2=CC=C1)(C1=CC(=NC=C1)C(F)(F)F)C1=C(C=CC(=C1)C=1C=NC=C(C1)S(=O)(=O)C)F)N | C26H17F5N4O2S
